US05753664
3,5-Dimethyl-2-[4-[4-[4-(4-methylpiperazinylcarbonyl)benzyloxy]benzoyl]benzylthio]-4(3H)-quinazolinone hydrochloride
A solution of 2-[4-(4-hydroxybenzoyl)benzylthio]-3,5-dimethyl-4(3H)-quinazolinone (406 mg), 1-(4-chloromethylbenzoyl)-4-methylpiperazine hydrochloride (1.119 g) and potassium carbonate (739 mg) in DMF (10 ml) was stirred at room temperature for 40 hours. This reaction mixture was concentrated and the residue was purified by silica gel column chromatography (dichloromethane: methanol =9:1) and treated with hydrogen chloride/ethyl acetate to provide the title compound as colorless solid (86 mg).

reactant | 2-[4-(4-hydroxybenzoyl)benzylthio]-3,5-dimethyl-4(3H)-quinazolinone | 406 mg | OC1=CC=C(C(=O)C2=CC=C(CSC3=NC4=CC=CC(=C4C(N3C)=O)C)C=C2)C=C1 | C24H20N2O3S
reactant | 1-(4-chloromethylbenzoyl)-4-methylpiperazine hydrochloride | 1.119 g | Cl.ClCC1=CC=C(C(=O)N2CCN(CC2)C)C=C1
reactant | potassium carbonate | 739 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3,5-Dimethyl-2-[4-[4-[4-(4-methylpiperazinylcarbonyl)benzyloxy]benzoyl]benzylthio]-4(3H)-quinazolinone hydrochloride | 86 mg | Cl.CN1C(=NC2=CC=CC(=C2C1=O)C)SCC1=CC=C(C=C1)C(C1=CC=C(C=C1)OCC1=CC=C(C=C1)C(=O)N1CCN(CC1)C)=O | InChI=1S/C37H36N4O4S.ClH/c1-25-5-4-6-32-33(25)36(44)40(3)37(38-32)46-24-27-9-11-28(12-10-27)34(42)29-15-17-31(18-16-29)45-23-26-7-13-30(14-8-26)35(43)41-21-19-39(2)20-22-41;/h4-18H,19-24H2,1-3H3;1H
